US05177089
(E)-4-(4-(2,3-dihydro-3-oxo-6-pyridazinyl)phenyl)-3-butenoic acid
A mixture of 3.00 g of 4-(2,3-dihydro-3-oxo-6-pyridazinyl) benzaldehyde, 6.12 g of β-ethoxyethyltriphneyl phosphonium chloride and 50 ml of N,N-dimethylformamide was cooled to -50° C. and stirred. 20 ml of an N,N-dimethylformamide solution of 5.55 g of potassium tert-butoxide was dropped and the temperature was gradually raised to 0° C. After 2 hours, the temperature was elevated to a room temperature and stirring was conducted for further 10 hours. Iced water was added and the aqueous layer was washed with chloroform. The aqueous layer was adjusted to about pH 3 with hydrochloric acid and deposited solids were collected by filtration. They were recrystallized from 50% hydrous N,N-dimethylformamide to obtain 1.51 g of the above-captioned compound as pale orange powder (yield: 39%).

reactant | 4-(2,3-dihydro-3-oxo-6-pyridazinyl) benzaldehyde | 3.00 g | O=C1NN=C(C=C1)C1=CC=C(C=O)C=C1 | C11H8N2O2
reactant | phosphonium chloride | 6.12 g | [Cl-].[PH4+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | potassium tert-butoxide | 5.55 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
product | (E)-4-(4-(2,3-dihydro-3-oxo-6-pyridazinyl)phenyl)-3-butenoic acid | 1.51 g, yield: 39% | O=C1NN=C(C=C1)C1=CC=C(C=C1)/C=C/CC(=O)O | C14H12N2O3
